US08067598B2
2-(5-Methyl-thiophen-2-yl)-ethylamine
To a suspension of 6.9 g (40.78 mmol) LiAlH4 in 70 mL diethyl ether under nitrogen was added drop wise a solution of 6.9 g (175 mmol) 2-methyl-5-((E)-2-nitro-vinyl)-thiophene in 150 mL diethyl ether at 20 to 25° C. After complete addition the mixture was heated to reflux for 5 h. The mixture was cooled to 0° C. and 28 mL water and 7 mL 5N NaOH and was added. The white solid was filtered, washed with ethyl acetate and the filtrate was concentrated in vacuo. The residue was distilled at reduced pressure to yield 4.98 g (86%) of the title compound as colourless liquid.

reactant | LiAlH4 | 40.78 mmol, 6.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-methyl-5-((E)-2-nitro-vinyl)-thiophene | 175 mmol, 6.9 g | CC=1SC(=CC1)\C=C\[N+](=O)[O-] | C7H7NO2S
reactant | water | 28 mL | O | H2O
reactant | NaOH | 5N, 7 mL | [OH-].[Na+]
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 2-(5-Methyl-thiophen-2-yl)-ethylamine | 4.98 g, 86% | CC1=CC=C(S1)CCN | C7H11NS
